US04792563
Stage 2: 1,1-bis(hydroxymethyl)cyclopentane
A solution of diethyl cyclopentane-1,1-dicarboxylate (23.3 g) in dry tetrahydrofuran (50 cm3) was added to a stirred suspension of lithium aluminium hydride (2.3 g) in dry tetrahydrofuran (150 cm3) at 0° C. under an atmosphere of nitrogen. The mixture was allowed to warm to the ambient temperature then stood for 17 hours; GLC analysis of a withdrawn sample indicated the presence of starting ester at this time. Two further portions of lithium aluminium hydride (0.5 g and 3.0 g) were added and the mixture stirred for a total of 2.5 hours. After this time GLC analysis showed no starting material. The mixture was poured into a mixture of diethyl ether and water. The aqueous layer was separated and extracted twice with diethyl ether. The combined organic layers were washed with brine and dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave the title compound (12.95 g) in 89% purity (by GLC analysis) as an off-white solid.

reactant | diethyl cyclopentane-1,1-dicarboxylate | 23.3 g | C1(CCCC1)(C(=O)OCC)C(=O)OCC | C11H18O4
reactant | lithium aluminium hydride | 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
product | 1,1-bis(hydroxymethyl)cyclopentane | 12.95 g | OCC1(CCCC1)CO | C7H14O2
